US07030118B2
(±)-(3-Amino-propyl)-N-[1-(3-benzyl-4-oxo-3,4-dihydro-pyrrolo[2,1-f][1,2,4]triazin-2-yl)-propyl]-4-chloro-benzamide, hydrochloride salt
To a solution of (±)-{3-[1-(3-benzyl-4-oxo-3,4-dihydro-pyrrolo[2,1-f][1,2,4]triazin-2-yl)-propylamino]-propyl}-carbamic acid tert-butyl ester (610 mg, 1.39 mmole) in methylene chloride (10 mL) at 0° C. was added triethylamine (290 μL, 2.08 mmol) followed by 4-chlorobenzoyl chloride (265 mL, 2.08 mmol). After stirring at 0° C. for 1.5 h, the reaction was quenched with 10 mL of saturated NaHCO3 solution and extracted with EtOAc (3×20 mL). The pooled organic extracts were dried over anhydrous MgSO4 and concentrated in vacuo. Purification of the crude product by flash column chromatography (SiO2, EtOAc/Hexane 4:1) gave the title compound as a white foam (755 mg, 94%): 1H NMR (CDCl3) δ 7.22 (m, 11H), 6.52 (m, 1H), 5.83 (m, 2H), 4.82 (d, 1H, J=16.0 Hz), 4.00 (m, 1H), 3.21 (m, 2H), 2.65 (m, 2H), 1.97 (m, 1H), 1.75 (m, 1H), 1.32 (s, 11H), 0.62 (t, 3H, J=6.84 Hz); 13C NMR (CDCl3) δ 171.8, 156.1, 155.6, 146.9, 137.0, 136.1, 135.0, 129.3, 129.2, 128.0, 127.2, 121.5, 118.4, 111.8, 109.7, 79.7, 54.9, 44.6, 42.5, 38.0, 31.9, 38.7, 24.7, 10.8; MS (ESI+) 578.31 (M++H).

reactant | (±)-{3-[1-(3-benzyl-4-oxo-3,4-dihydro-pyrrolo[2,1-f][1,2,4]triazin-2-yl)-propylamino]-propyl}-carbamic acid tert-butyl ester | 1.39 mmole, 610 mg | C(C)(C)(C)OC(NCCCNC(CC)C1=NN2C(C(N1CC1=CC=CC=C1)=O)=CC=C2)=O | C24H33N5O3
reactant | triethylamine | 2.08 mmol, 290 μL | C(C)N(CC)CC | C6H15N
reactant | 4-chlorobenzoyl chloride | 2.08 mmol, 265 mL | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
reactant | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | (±)-(3-Amino-propyl)-N-[1-(3-benzyl-4-oxo-3,4-dihydro-pyrrolo[2,1-f][1,2,4]triazin-2-yl)-propyl]-4-chloro-benzamide, hydrochloride salt | 755 mg, 94% | Cl.NCCCC1=C(C(=O)NC(CC)C2=NN3C(C(N2CC2=CC=CC=C2)=O)=CC=C3)C=CC(=C1)Cl | InChI=1S/C26H28ClN5O2.ClH/c1-2-22(29-25(33)21-13-12-20(27)16-19(21)10-6-14-28)24-30-32-15-7-11-23(32)26(34)31(24)17-18-8-4-3-5-9-18;/h3-5,7-9,11-13,15-16,22H,2,6,10,14,17,28H2,1H3,(H,29,33);1H
